US05866513
To a stirred solution of 1.22 g (3.8 mmol) of trans-ethyl 2-(2,3,4-trimethoxyphenyl)cyclohexane-1-carboxylate in 20 mL of THF and 10 mL of methanol was added 10 mL of 10% aqueous NaOH. The mixture was stirred at room temperature for 18 h and heated at reflux for 18 h. After cooling, the bulk of the organic solvents was removed in vacuo and the residue was diluted with 100 mL of 5% aqueous NaOH and washed with 100 mL of ether. The aqueous layer was acidified to pH 1 with concentrated HCl and extracted with two 100 mL portions of ether. These ether extracts were combined, dried over MgSO4 and the solvent removed in vacuo to leave 0.88 g of trans-2-(2,3,4-trimethoxyphenyl)cyclohexane-1-carboxylic acid as an oil. 1H NMR (CDCl3) -- 1.3-2.2 (m, 8H), 2.65 (m, 1H), 3.1 (m, 1H), 3.8 (s, 9H), 6.6 (d, 1H), 6.8 (d, 1H).

reactant | trans-ethyl 2-(2,3,4-trimethoxyphenyl)cyclohexane-1-carboxylate | 3.8 mmol, 1.22 g | COC1=C(C=CC(=C1OC)OC)[C@H]1[C@@H](CCCC1)C(=O)OCC | C18H26O5
reactant | NaOH | 10 mL | [OH-].[Na+]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | methanol | 10 mL | CO | CH4O
product | trans-2-(2,3,4-trimethoxyphenyl)cyclohexane-1-carboxylic acid | 0.88 g | COC1=C(C=CC(=C1OC)OC)[C@H]1[C@@H](CCCC1)C(=O)O | C16H22O5
